US06730687B1
2-[5-[(2,4-Dioxothiazolidin-5-ylidene)methyl]-2 -methoxyphenyl]-acetic Acid
Ethyl 2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-2-methoxyphenyl]acetate (1.29 g, 4.01 mmol), concentrated hydrochloric acid (20 mL)and acetic acid (20 mL) were mixed and refluxed for 2.5 hours. After allowed to stand for cooling, ice water was added thereto and the precipitated crystals were collected by filtration, washed with water, and then dried to obtain 1.13 g (96%) of title compound as yellow powder.

reactant | Ethyl 2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-2-methoxyphenyl]acetate | 4.01 mmol, 1.29 g | O=C1SC(C(N1)=O)=CC=1C=CC(=C(C1)CC(=O)OCC)OC | C15H15NO5S
reactant | hydrochloric acid | 20 mL | Cl | ClH
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-[5-[(2,4-Dioxothiazolidin-5-ylidene)methyl]-2 -methoxyphenyl]-acetic Acid | 1.13 g, 96% | O=C1SC(C(N1)=O)=CC=1C=CC(=C(C1)CC(=O)O)OC | C13H11NO5S
